US04962203
STEP 2. Preparation of (7-bromo-quinolin-2-yl)methylbromide
A mixture of 220 g 7-bromoquinaldine, 180 g N-bromosuccinimide and 1 g dibenzoylperoxide in CCl4 (1 L) was illuminated with a 275 W sun lamp at reflux for 12 hours. The reaction mixture was cooled and directly chromatographed on 2 kg silica gel. Elution with toluene afforded the title compound which was used as is for the next step.

reactant | 7-bromoquinaldine | 220 g | BrC1=CC=C2C=CC(=NC2=C1)C | C10H8BrN
reactant | N-bromosuccinimide | 180 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 1 L | C(Cl)(Cl)(Cl)Cl | CCl4
product | (7-bromo-quinolin-2-yl)methylbromide | BrC1=CC=C2C=CC(=NC2=C1)CBr | C10H7Br2N
